US09210931B2
Step 4: Preparation of tert-Butyl (2-chloro-4-(pyridin-3-yl)-1H-imidazol-1-yl)(ethyl)carbamate (Compound 41)
A vacuum dried 25 mL round bottomed flask equipped with a magnetic stir bar and containing tert-butyl ethyl(4-(pyridin-3-yl)-1H-imidazol-1-yl)carbamate (77 mg, 0.267 mmol) was charged with anhydrous tetrahydrofuran (THF, 3 mL) and cooled to −78° C. N-butyllithium (0.25 mL 0.675 mmol, 2.5 M in hexanes) was added and the mixture was stirred for 15 minutes. Hexachloroethane (189 mg, 0.80 mmol) dissolved in anhydrous THF (1 mL) was added dropwise to the reaction mixture while maintaining a temperature of −78° C. After stirring for 1 hour, the reaction was allowed to warm to room temperature. The reaction mixture was loaded directly on a silica gel column and the THF was removed in a vacuum oven. The crude product was purified using silica gel chromatography (0-25% methanol/dichloromethane) to afford the title compound (3 mg, 0.009 mmol, 3.5%) as a yellow oil: 1H NMR (600 MHz, CDCl3) δ 8.92 (d, J=1.6 Hz, 1H), 8.50 (dd, J=4.8, 1.5 Hz, 1H), 8.06 (dt, J=7.9, 2.0 Hz, 1H), 7.33-7.27 (m, 2H), 3.89 (dq, J=14.5, 7.3 Hz, 1H), 3.68 (dq, J=14.3, 7.2 Hz, 1H), 1.44 (s, 9H), 1.22 (t, J=7.2 Hz, 3H); 13C NMR (151 MHz, CDCl3) δ 152.90, 148.47, 146.02, 136.07, 134.08, 131.81, 128.79, 123.36, 117.66, 83.23, 45.32, 28.04, 13.03; ESIMS m/z 323 ([M+H]+).

reactant | tert-butyl ethyl(4-(pyridin-3-yl)-1H-imidazol-1-yl)carbamate | 0.267 mmol, 77 mg | C(C)N(C(OC(C)(C)C)=O)N1C=NC(=C1)C=1C=NC=CC1 | C15H20N4O2
reactant | N-butyllithium | 0.675 mmol, 2.5 M, 0.25 mL | [Li+].CCC[CH2-]
reactant | Hexachloroethane | 0.80 mmol, 189 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-Butyl (2-chloro-4-(pyridin-3-yl)-1H-imidazol-1-yl)(ethyl)carbamate | 0.009 mmol, 3 mg, 3.5% | ClC=1N(C=C(N1)C=1C=NC=CC1)N(C(OC(C)(C)C)=O)CC | C15H19ClN4O2
